US06211215B1
In substantially the same manner as in Reference Example 47, 3-methyl-2-thiophenecarboxamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(3-methyl-2-thienyl)oxazole. The yield was 61%. Recrystallization from ethyl acetate-hexane gave colorless needles, mp 95-96° C.

reactant | 3-methyl-2-thiophenecarboxamide | CC1=C(SC=C1)C(=O)N | C6H7NOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(3-methyl-2-thienyl)oxazole | yield was 61% | ClCC=1N=C(OC1)C=1SC=CC1C | C9H8ClNOS
